US09290451B2
b) 5-[Bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid
A solution of 5-(bis(2,2,2-trifluoroethyl)amino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester (60 mg, 0.16 mmol) and sodium hydroxide (9 mg, 0.23 mmol) in ethanol (20 mL) was reacted for 2 h at 90° C. The reaction mixture was concentrated under reduced pressure, dissolved in water and extracted with ethyl acetate (10 mL). The pH of the aqueous layer was adjusted to 2 by addition of 1 N hydrochloric acid; the aqueous layer was extracted with ethyl acetate (3×10 mL), washed with brine (2×10 mL), dried over Na2SO4 and evaporated to dryness (0.03 g, crude). The crude product was used for next step without further purification; MS: m/e=373.1 [M+H]+.

reactant | 5-(bis(2,2,2-trifluoroethyl)amino)-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | 0.16 mmol, 60 mg | COC(=O)C1=NC(=C(C=C1)N(CC(F)(F)F)CC(F)(F)F)OCC1CC1 | C15H16F6N2O3
reactant | sodium hydroxide | 0.23 mmol, 9 mg | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[Bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | FC(CN(C=1C=CC(=NC1OCC1CC1)C(=O)O)CC(F)(F)F)(F)F | C14H14F6N2O3
